US05464616
A. Allyl 6β-[(allyloxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate
In a manner similar to that described for Example 1, method A, the title compound (3.53 g, 46%) was prepared from malonic acid monoallyl ester (2.88 g, 20 mmol) and 6-aminopenicillanic acid (4.33 g, 20 mmol) as colorless crystals: m.p. 59°-60° C. (toluene); IR (CHCl3) 1790, 1730, 1685 cm-1; 1 H NMR (CDCl3) δ 1.51 and 1.67 (each 3H, s, C2 -(CH3)2), 3.35-3.47 (2H, m, COCH2CO), 4.48 (1H, s, C3 -H), 4.60-4.70 (4H, m, 2xOCH2CH=CH2), 5.22-5.42 (4H, m, 2xOCH2CH=CH2), 5.56 (1H, d, J=4Hz, C5-H), 5.75 (1H, dd, J=4 and 9Hz, C6 -H), 5.84-6.00 (2H, m, 2xOCH2CH=CH2), 8.03 (1H, d, J=9Hz, NH).

reactant | malonic acid monoallyl ester | 20 mmol, 2.88 g | C(C=C)OC(CC(=O)O)=O | C6H8O4
reactant | 6-aminopenicillanic acid | 20 mmol, 4.33 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Allyl 6β-[(allyloxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate | 3.53 g, 46% | C(C=C)OC(=O)CC(=O)N[C@H]1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC=C)C1=O | C17H22N2O6S
